US07312330B2
D. 7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydro-N-(1,2,3,4-tetrahydro-4,4-dimethylquinolin-7-yl)pyrido[3,4-d]pyrimidin-4-amine
A mixture of 1-(7-(7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ylamino)-3,4-dihydro-4,4-dimethylquinolin-1(2H)-yl)ethanone (10 mg), acetonitrile (2 mL), and 5 N HCl (0.5 mL) was heated at 90° C. for 3 h. The cooled solution was treated with saturated aqueous sodium bicarbonate and extracted with EtOAc (15 mL×3). The combined organic layers were washed with brine, dried, and evaporated. The residue was purified by peparative TLC to give an off-white solid (7 mg).

reactant | 1-(7-(7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ylamino)-3,4-dihydro-4,4-dimethylquinolin-1(2H)-yl)ethanone | 10 mg | ClC=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=CC=C2C(CCN(C2=C1)C(C)=O)(C)C | C25H27ClN6O
reactant | HCl | 5 N, 0.5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydro-N-(1,2,3,4-tetrahydro-4,4-dimethylquinolin-7-yl)pyrido[3,4-d]pyrimidin-4-amine | 7 mg | ClC=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=CC=C2C(CCNC2=C1)(C)C | C23H25ClN6
